US08486952B2
4-(4-cyano-1H-imidazol-1-yl)-3-methoxyaniline
To a solution of 1-(2-methoxy-4-nitrophenyl)-1H-imidazole-4-carbonitrile (689 mg, 2.82 mmol) in EtOH (Ratio: 2, Volume: 15 mL) was added Acetic Acid (Ratio: 1.000, Volume: 7.50 mL) and Iron (630 mg, 11.29 mmol). The resulting mixture was brought to 100° C. and stirred for 2 h. The reaction was then diluted with water and brought to pH 8 by the addition of 1 N aqueous sodium hydroxide. This mixture was extracted with EtOAc (3×5 mL). The combined extracts were washed with water (5 mL), brine (5 mL), dried over MgSO4, filtered and concentrated in vacuo. LC-MS (M+H)+=215.0.

reactant | 1-(2-methoxy-4-nitrophenyl)-1H-imidazole-4-carbonitrile | 2.82 mmol, 689 mg | COC1=C(C=CC(=C1)[N+](=O)[O-])N1C=NC(=C1)C#N | C11H8N4O3
reactant | Acetic Acid | 7.50 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | water | O | H2O
catalyst | Iron | 11.29 mmol, 630 mg | [Fe] | Fe
product | 4-(4-cyano-1H-imidazol-1-yl)-3-methoxyaniline | C(#N)C=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C11H10N4O
